US04102888
Step A-1. Preparation of 3(S)-Acetyloxy-1-octyne
(S)-1-octyn-3-ol (100 g., 0.794 mole) is dissolved in pyridine (79 g., 1.0 mole) and acetic anhydride (81.6 g., 0.8 mole) is added dropwise with stirring during 1 hour. The temperature rises to 45° C. The solution is heated at 55° C. for 1 hour and then is cooled and poured into ice-cold 5% hydrochloric acid (200 ml.) providing a heterogeneous mixture which is extracted with ether. The organic extract is washed with water and saturated aqueous brine, dried over sodium sulfate, and filtered. Evaporation of the filtrate in vacuo at 40° to 50° C. yields a residual oil which is distilled to give the title compound (106.4 g., 80%), b.p. 91°-92° C./15 mm.; [α]D26 -79° (C 3.0, CHCl3).

reactant | (S)-1-octyn-3-ol | 0.794 mole, 100 g | C#C[C@H](CCCCC)O | C8H14O
reactant | pyridine | 1.0 mole, 79 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.8 mole, 81.6 g | C(C)(=O)OC(C)=O | C4H6O3
product | 3(S)-Acetyloxy-1-octyne | 106.4 g, 80% | C(C)(=O)O[C@H](C#C)CCCCC | C10H16O2
